US04881970
2-(3-Amino-4-bromo-6-fluorophenyl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione (0.85 g) was dissolved in 1,4-dioxane (5 ml), and ethyl bromoacetate (3.3 g) was added thereto. The resultant mixture was refluxed for 6 hours. Triethylamine (0.2 g) was added thereto, and the mixture was refluxed for 1 hour. After being allowed to cool, water and toluene were added to the mixture, which was then extracted with toluene. The toluene layer was dried and concentrated. The residue was purified by silica gel column chromatography to give 1.0 g of 2-(4-bromo-2-fluoro-5-ethoxycarbonylmethylaminophenyl)-4,5,6,7-(tetrahydro-2H-isoindole-1,3-dione (Compound No. 89). nD26.0 1.5281.

reactant | 2-(3-Amino-4-bromo-6-fluorophenyl)-4,5,6,7-tetrahydro-2H-isoindole-1,3-dione | 0.85 g | NC=1C=C(C(=CC1Br)F)N1C(C=2CCCCC2C1=O)=O | C14H12BrFN2O2
reactant | ethyl bromoacetate | 3.3 g | BrCC(=O)OCC | C4H7BrO2
reactant | Triethylamine | 0.2 g | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | tetrahydro-2H-isoindole-1,3-dione | C1(NC(C2CCCC=C12)=O)=O | C8H9NO2
